US08198267B2
4-(2-Methyl-4-nitrophenyl)-1,4-oxazepan-5-one
3.32 g (15.6 mmol) of potassium phosphate are mixed with 0.5 g (2.6 mmol) of copper(I) iodide in a round-bottom flask, and baked out and filled with argon in repeated alternation. Subsequently, 10 ml of anhydrous dioxane, 1.5 g (13.0 mmol) of 1,4-oxazepan-5-one, 3.43 g (13.0 mmol) of 1-iodo-2-methyl-4-nitrobenzene and 0.46 g (5.21 mmol) of N,N-dimethylethylenediamine are added, and the mixture is heated to 110° C. for 15 h. The mixture is allowed to cool and filtered through silica gel, and the silica gel is washed with dioxane. The combined filtrates are concentrated to dryness under reduced pressure. The residue is dissolved in acetonitrile and purified by preparative HPLC with a gradient of water and acetonitrile. The product fractions are combined and concentrated to dryness under reduced pressure. This affords 430 mg (13% of theory) of the desired product.

reactant | potassium phosphate | 15.6 mmol, 3.32 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-oxazepan-5-one | 13.0 mmol, 1.5 g | O1CCNC(CC1)=O | C5H9NO2
reactant | 1-iodo-2-methyl-4-nitrobenzene | 13.0 mmol, 3.43 g | IC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6INO2
reactant | N,N-dimethylethylenediamine | 5.21 mmol, 0.46 g | CN(CCN)C | C4H12N2
catalyst | copper(I) iodide | 2.6 mmol, 0.5 g | [Cu]I
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-(2-Methyl-4-nitrophenyl)-1,4-oxazepan-5-one | CC1=C(C=CC(=C1)[N+](=O)[O-])N1CCOCCC1=O | C12H14N2O4
